US09359367B2
Step 2: 2-(4-(4-fluorophenyl)piperazin-1-yl)-2-methylpropanal
To a stirred solution of oxalyl chloride (0.7 mL, 8 mmol) in dichloromethane (30 mL) at −60° C. was added dropwise dimethylsulphoxide (1.1 mL, 15.5 mmol). The mixture was stirred for 2 min, and a solution of 2-(4-(4-fluorophenyl)piperazin-1-yl)-2-methylpropan-1-ol (1.5 g, 4.9 mmol) in dichloromethane (10 mL) was then added. The reaction mixture was stirred for 15 min, triethylamine (5 mL, 25.5 mmol) was added. The reaction mixture was stirred for 5 min and then allowed to warm to room temperature. Water (100 mL) was then added and the aqueous layer was extracted with additional dichloromethane (100 mL). The organic layers were combined, washed sequentially with brine (200 mL), dried over sodium sulphate and evaporated till dryness. The crude product was purified by column chromatography over silica gel (100-200 mesh) using 10% ethylacetate in hexane to obtain the title compound (1.2 g, 83.0%).

reactant | oxalyl chloride | 8 mmol, 0.7 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulphoxide | 15.5 mmol, 1.1 mL | CS(=O)C | C2H6OS
reactant | 2-(4-(4-fluorophenyl)piperazin-1-yl)-2-methylpropan-1-ol | 4.9 mmol, 1.5 g | FC1=CC=C(C=C1)N1CCN(CC1)C(CO)(C)C | C14H21FN2O
reactant | triethylamine | 25.5 mmol, 5 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | Water | 100 mL | O | H2O
product | 2-(4-(4-fluorophenyl)piperazin-1-yl)-2-methylpropanal | 1.2 g, 83.0% | FC1=CC=C(C=C1)N1CCN(CC1)C(C=O)(C)C | C14H19FN2O
